US06664247B2
[2-(4-Carboxymethyl-3-methylphenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (IIc-65)
A solution of [2-(4-methoxycarbonylmethyl-3-methylphenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (IIc-64, 200 mg, 0.5 mmol) in a mixture of methanol/water (3/1, 8 mL) was treated with 1M NaOH (2 mL, 2 mmol). The mixture was heated at 70° C. for 2 hours and then neutralised with 1M HCl (2 mL, 2 mmol). The solid that formed was collected by filtration to afford the title compound (185 mg, 95%) as a pale yellow solid, mp 245° C. (dec.); 1H NMR (DMSO) δ 2.27 (6H, 2×s), 3.55 (2H, s), 6.49 (1H, s), 7.13 (1H, d), 7.26 (1H, t), 7.50 (1H, d), 7.62-7.78 (3H, m), 8.42 (1H, d), 9.34 (1H,d), 10.26 (1H, s), 12.36 (1H, s); IR (solid) 1660, 1590, 1562, 1504, 1427, 1385, 810, 776, 751, 693; MS 389.4 (M+H)+

reactant | [2-(4-methoxycarbonylmethyl-3-methylphenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 0.5 mmol, 200 mg | COC(=O)CC1=C(C=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C)C | C22H22N6O2
reactant | NaOH | 2 mmol, 1M, 2 mL | [OH-].[Na+]
reactant | HCl | 2 mmol, 1M, 2 mL | Cl | ClH
solvent | water EtOH | 8 mL | O.CCO
product | [2-(4-Carboxymethyl-3-methylphenylamino)-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 185 mg, 95% | C(=O)(O)CC1=C(C=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)NC=1NN=C(C1)C)C | C21H20N6O2
